US04560691
A mixture containing 200 ml of methanol, 50 ml of concentrated aqueous ammonium hydroxide and 50 g of 1-phenyl-1,3-butanedione (same as benzoylacetone) was stirred at ambient temperature for 22 hours after which time a tlc analysis (ether/silica gel) indicated very little remaining starting material. Some white solid 1-methyl-3-phenyl-3-oxo-1-propenamine had crystallized from the pale yellow solution. The mixture was concentrated on a rotary evaporator to dryness to yield 1-methyl-3-phenyl-3-oxo-1-propenamine as a yellow solid. To the yellow solid was added 75 ml of dimethylformamide and 25 g of methyl propiolate (same as methyl 2-propynoate) and the resulting mixture was refluxed for 10 hours, and concentrated on a rotary evaporator. The remaining solid was recrystallized from isopropyl alcohol and dried at 90°-95° C. to yield 29.6 g of 5-benzoyl-6-methyl-2(1H)-pyridinone, m.p. 185°-187° C. The mother liquor from the above recrystallization was concentrated on a rotary evaporator to yield another 6 g of the product.

reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
reactant | 1-phenyl-1,3-butanedione | 50 g | C1(=CC=CC=C1)C(CC(C)=O)=O | C10H10O2
solvent | methanol | 200 ml | CO | CH4O
product | 1-methyl-3-phenyl-3-oxo-1-propenamine | CC(=CC(=O)C1=CC=CC=C1)N | C10H11NO
